US08835434B2
O-(Benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.100 g, 0.265 mmol) was added to a solution of (5R,7R)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol (31 mg, 0.13 mmol), N,N-diisopropylethylanine (0.231 mL, 1.32 mmol) and (S)-2-(4-chlorophenyl)-3-(2-hydroxy-2-methylpropylamino)propanoic acid (43 mg, 0.16 mmol) in methylene chloride (1.2 mL, 19 mmol). The mixture was stirred for 1 hour at room temperature, after which the reaction was quenched with saturated aqueous NH4Cl. The mixture was extracted with DCM (3×10 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The crude product was purified by reverse phase HPLC to give (S)-2-(4-chlorophenyl)-3-(2-hydroxy -2-methylpropylamino)-1-(4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one (33 mg, 51%). 1HNMR (CDCl3, 500 MHz) δ 8.59 (s, 1H), 7.50 (d, J=8.5 Hz, 2H), 7.33 (d, J=8.5 Hz, 2H), 5.06 (m, 1H), 4.48 (m, 1H), 3.92 (m, 2H), 3.15 (m, 2H), 2.94 (m, 2H), 2.02 (m, 2H), 1.19 (m, 6H), 1.06 (d, 3H). LCMS M+1 488.3

reactant | O-(Benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.265 mmol, 0.100 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | (5R,7R)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol | 0.13 mmol, 31 mg | C[C@@H]1C[C@H](C=2N=CN=C(C21)N2CCNCC2)O | C12H18N4O
reactant | (S)-2-(4-chlorophenyl)-3-(2-hydroxy-2-methylpropylamino)propanoic acid | 0.16 mmol, 43 mg | ClC1=CC=C(C=C1)[C@H](C(=O)O)CNCC(C)(C)O | C13H18ClNO3
reactant | methylene chloride | 19 mmol, 1.2 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(4-chlorophenyl)-3-(2-hydroxy -2-methylpropylamino)-1-(4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one | 33 mg, 51% | ClC1=CC=C(C=C1)[C@H](C(=O)N1CCN(CC1)C=1C2=C(N=CN1)[C@@H](C[C@H]2C)O)CNCC(C)(C)O | C25H34ClN5O3
